US04510149
To a suspension of LiAlH4 (202 mg) in dry THF (2.4 ml) a solution of 1,2-dihydro-3-(1-imidazolyl)-6-ethoxycarbonyl-naphthalene (2.8 g) in dry THF (22 ml) was added dropwise at 0° C. under nitrogen atmosphere. The reaction mixture was refluxed for 1 day and then stirred overnight at room temperature. H2O (40 ml) was added and the precipitate formed filtered off. The filtrate was concentrated, extracted with CHCl3, dried (Na2SO4) and evaporated under vacuum to give 1,2-dihydro-3-(1-imidazolyl)-6-hydroxymethyl-naphthalene (2 g).

reactant | LiAlH4 | 202 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1,2-dihydro-3-(1-imidazolyl)-6-ethoxycarbonyl-naphthalene | 2.8 g | N1(C=NC=C1)C=1CCC2=CC=C(C=C2C1)C(=O)OCC | C16H16N2O2
reactant | H2O | 40 ml | O | H2O
solvent | THF | 2.4 ml | C1CCOC1 | C4H8O
solvent | THF | 22 ml | C1CCOC1 | C4H8O
product | 1,2-dihydro-3-(1-imidazolyl)-6-hydroxymethyl-naphthalene | 2 g | N1(C=NC=C1)C=1CCC2=CC=C(C=C2C1)CO | C14H14N2O
